US07847100B2
3-bromo-5-nitrobenzoic acid methyl ester
To a solution of 3-bromo-5-nitrobenzoic acid (1.26 g, 5.12 mmol) in 20 mL MeOH was added thionyl chloride (0.410 mL, 5.63 mmol) dropwise via syringe. The reaction was heated to reflux for 15 h, cooled to rt and concentrated to afford a white solid. 1H NMR (CDCl3) δ 8.77 (m, 1H), 8.53 (m, 1H), 8.47 (m, 1H), 3.98 (s, 3H).

reactant | 3-bromo-5-nitrobenzoic acid | 5.12 mmol, 1.26 g | BrC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4BrNO4
reactant | thionyl chloride | 5.63 mmol, 0.410 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 20 mL | CO | CH4O
product | 3-bromo-5-nitrobenzoic acid methyl ester | COC(C1=CC(=CC(=C1)[N+](=O)[O-])Br)=O | C8H6BrNO4
